US04338333
N-[2-(4-Carbamoylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-phenylethanamine
A solution of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-phenylethanamine (0.5 g) in methanol (10 ml) was treated with a solution of 0.880 ammonia (40 ml), the resulting mixture boiled for 11/2 hours then stirred at ambient temperature for 18 hours. The resulting white precipitate was filtered off to yield the title compound (0.17 g) m.p. 158°-162°, as an 82:18 mixture of diastereoisomers.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-phenylethanamine | 0.5 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)O | C20H25NO4
reactant | ammonia | 40 ml | N | H3N
solvent | methanol | 10 ml | CO | CH4O
product | N-[2-(4-Carbamoylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-phenylethanamine | 0.17 g | C(N)(=O)COC1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)O | C19H24N2O3
